US07259266B2
Sodium 6-Chloro-8-(4-ethylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of 6-chloro-8-(4-ethylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid 51.9 mg (0.136 mmole) in 2.0 mL of ethanol was treated with 1.345 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide a quantitative yield of a yellow solid: 1H NMR (CD3OD/400 MHz) 1.25 (t, 3H, J=7.6 Hz), 2.67 (q, 2H, J=7.6 Hz), 5.82 (q, 1H, J=7.2 Hz), 7.21-7.25 (m, 4H), 7.38-7.40 (m, 3H).

reactant | 6-chloro-8-(4-ethylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.136 mmole, 51.9 mg | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC=C(C=C1)CC)C(F)(F)F)C(=O)O | C19H14ClF3O3
reactant | NaOH | 0.1008N, 1.345 mL | [OH-].[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | Sodium 6-Chloro-8-(4-ethylphenyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC=C(C=C1)CC)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C19H14ClF3O3.Na/c1-2-10-3-5-11(6-4-10)14-9-13(20)7-12-8-15(18(24)25)17(19(21,22)23)26-16(12)14;/h3-9,17H,2H2,1H3,(H,24,25);/q;+1/p-1
